US05081121
3-Acetoxy-4-benzyloxybenzoic acid (14.4 g) was treated in the same manner as in the preparation of N-methoxycarbonyl-3-hydroxy-4-methoxyaniline in Experimental Example 4 to obtain N-methoxycarbonyl-4-benzyloxy-3-hydroxyaniline (11.8 g).

reactant | 3-Acetoxy-4-benzyloxybenzoic acid | 14.4 g | C(C)(=O)OC=1C=C(C(=O)O)C=CC1OCC1=CC=CC=C1 | C16H14O5
reactant | N-methoxycarbonyl-3-hydroxy-4-methoxyaniline | COC(=O)NC1=CC(=C(C=C1)OC)O | C9H11NO4
product | N-methoxycarbonyl-4-benzyloxy-3-hydroxyaniline | 11.8 g | COC(=O)NC1=CC(=C(C=C1)OCC1=CC=CC=C1)O | C15H15NO4
